US07592477B2
Step b) Formation of N-[2-(3-chlorophenyl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and [2-(3-chlorophenyl)ethyl]amine gave the title compound as a colorless oil (62%). 1H NMR (CDCl3, 300 MHz) δ 7.99 (d, J=8.3 Hz, 2H, 7.37 (d, J=8.3 Hz, 2H), 7.21-6.96 (m, 4H), 3.80 (s, 2H), 2.87-2.78 (m, 2H), 2.77-2.66 (m, 4H), 1.80-1.66 (m, 2H), 1.40-1.10 (m, 16H), 0.80 (t, J=7.2 Hz, 3H). M+(LC/MS(ESI)): 468.4. HPLC (Condition A), Rt: 5.1 min (HPLC purity: 99.1%).

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | [2-(3-chlorophenyl)ethyl]amine | ClC=1C=C(C=CC1)CCN | C8H10ClN
product | N-[2-(3-chlorophenyl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 62% | ClC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC | C28H38ClN3O
